US05286905
21.6 Grams (0.20 mol) of m-cresol and 2.3 g (0.04 mol) of propyleneimine in 20 ml of n-decane were allowed to react in an autoclave at 5 kg/cm2G at 150° C. for 6 hours. Thereafter, the resultant reaction product was treated in the same manner as in Example 17 to give 3.8 g of 1-(3-methylphenoxy)-2-propylamine. Its yield was as high as 57%.

reactant | m-cresol | 0.20 mol | C1=C(C=CC=C1O)C | C7H8O
reactant | propyleneimine | 0.04 mol, 2.3 g | CC1CN1 | C3H7N
solvent | n-decane | 20 ml | CCCCCCCCCC | C10H22
product | 1-(3-methylphenoxy)-2-propylamine | 3.8 g, yield was as high as 57% | CC=1C=C(OCC(C)N)C=CC1 | C10H15NO
